US05760021
II. Synthesis of Ethyl 2-Diethoxyphosphinyl-2-hydroxy-4-(1-pyrrolidinyl)butanoate
A mixture of 9.96 g (0.05 mole) of ethyl 2-oxo-4-(1-pyrrolidinyl)butanoate in 31 g (0.225 mole) of diethyl phosphite is stirred at 20°-30° for 3-6 days. The excess diethyl phosphite is removed on a rotary evaporator under high vacuum at a bath temperature of 50°-70° to yield the crude product as a viscous oil. This is purified by chromatography on silica gel using chloroform/methanol as eluant.

reactant | ethyl 2-oxo-4-(1-pyrrolidinyl)butanoate | 0.05 mole, 9.96 g | O=C(C(=O)OCC)CCN1CCCC1 | C10H17NO3
reactant | diethyl phosphite | 0.225 mole, 31 g | P(OCC)(OCC)[O-]
product | Ethyl 2-Diethoxyphosphinyl-2-hydroxy-4-(1-pyrrolidinyl)butanoate | C(C)OP(=O)(C(C(=O)OCC)(CCN1CCCC1)O)OCC | C14H28NO6P
